US04066645
When in Example 3 the 2-methylpyrazolo[1,5-a]pyrido[3,4-e]pyrimidin-5(4H)-one is replaced by the 8-chloro-2-methylpyrazolo[1,5-a]pyrido[3,4-e]pyrimidin-5(4H)-one pf Example 1b, 2,4-dimethyl-8-chloropyrazolo[1,5-a]pyrido[3,4-e]pyrimidin-5(4H)-one is obtained, yield: 73%; m.p. 253.8° (DMF).

reactant | 2-methylpyrazolo[1,5-a]pyrido[3,4-e]pyrimidin-5(4H)-one | CC1=NN2C(NC(C3=C2C=CN=C3)=O)=C1 | C10H8N4O
reactant | 8-chloro-2-methylpyrazolo[1,5-a]pyrido[3,4-e]pyrimidin-5(4H)-one | ClC1=CC2=C(C(NC=3N2N=C(C3)C)=O)C=N1 | C10H7ClN4O
product | 2,4-dimethyl-8-chloropyrazolo[1,5-a]pyrido[3,4-e]pyrimidin-5(4H)-one | yield: 73% | CC1=NN2C(N(C(C3=C2C=C(N=C3)Cl)=O)C)=C1 | C11H9ClN4O
